US05594021
2-[3,4-(methylenedioxy)benzyl]benzo[b]thiophene-3-sulfonyl chloride was prepared by the method of Example 40B using DMF (9.1 mmoles, 0.70 ml), sulfuryl chloride (7.7 mmoles, 0.62 ml) and 2-[3,4-(methylenedioxy)benzyl]benzo[b]thiophene (4.6 mmoles, 1.2 g). Flash chromatography (5% ethyl acetate/hexanes) provided 0.71 g (42%) of a light yellow solid.

reactant | DMF | 9.1 mmoles, 0.70 ml | CN(C)C=O | C3H7NO
reactant | sulfuryl chloride | 7.7 mmoles, 0.62 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | 2-[3,4-(methylenedioxy)benzyl]benzo[b]thiophene | 4.6 mmoles, 1.2 g | C1OC=2C=C(CC3=CC4=C(S3)C=CC=C4)C=CC2O1 | C16H12O2S
product | 2-[3,4-(methylenedioxy)benzyl]benzo[b]thiophene-3-sulfonyl chloride | C1OC=2C=C(CC3=C(C4=C(S3)C=CC=C4)S(=O)(=O)Cl)C=CC2O1 | C16H11ClO4S2
